US08729263B2
To a 10 mL microwave vial, was added (3aR,6aS)-tert-butyl 5-(6-(4-chloro-2-hydroxyphenyl)pyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (0.182 g, 0.437 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (0.385 g, 1.310 mmol), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II) (0.035 g, 0.044 mmol) and Cs2CO3 (0.427 g, 1.310 mmol), followed by adding 1,4-dioxane (2 mL) and water (0.5 mL). The reaction mixture was evacuated and filled with N2 twice then heated at 90° C. overnight. The reaction mixture was filtered through celite and washed with DMSO and MeOH. The filtrate was acidified with 1N HCl and stirred at RT for 3 hour, then extracted with DCM. The aqueous layer was basified with 2M NH2 in MeOH and a brownish precipitate formed, which was filtered and washed with DMSO to afford a grey solid 2-(6-((3aR,6aS)-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol (82 mg, 0.224 mmol, 51.2% yield). MS (M+1)=349.1. The DMSO wash solution was concentrated to afford a DMSO solution of desired (3aR,6aS)-tert-butyl 5-(6-(2-hydroxy-4-(1H-pyrazol-4-yl)phenyl)pyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (75 mg, 0.167 mmol, 38% yield), MS (M+1)=449.1, which was used directly in the next step.

reactant | (3aR,6aS)-tert-butyl 5-(6-(4-chloro-2-hydroxyphenyl)pyridazin-3-yl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.437 mmol, 0.182 g | ClC1=CC(=C(C=C1)C1=CC=C(N=N1)N1C[C@@H]2[C@H](C1)CN(C2)C(=O)OC(C)(C)C)O | C21H25ClN4O3
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 1.310 mmol, 0.385 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | Cs2CO3 | 1.310 mmol, 0.427 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′,4′,6′-triisopropyl-1,1′-biphenyl][2-(2-aminoethyl)phenyl]palladium(II) | 0.044 mmol, 0.035 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C(=C(C=C2OC)Cl)OC)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)CCN.[Pd+2]
solvent | water | 0.5 mL | O | H2O
product | 2-(6-((3aR,6aS)-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol | 0.224 mmol, 82 mg, 51.2% yield | C1N(C[C@@H]2[C@H]1CNC2)C2=CC=C(N=N2)C2=C(C=C(C=C2)C=2C=NNC2)O | C19H20N6O
